US08877975B2
N-methyl(1-(naphthalen-2-yl)cyclohexyl)-methanamine (93)
The title compound was synthesized from 1-(naphthalen-2-yl)cyclohexane-carboxylic acid and methyl amine using General Procedure G, followed by General Procedure E in 74% yield as a clear oil. LCMS Rt=7.66 min, m/z=254 (M+1). 1H NMR (CDCl3, δ): 7.82 (m, 4H), 7.54 (dd, J=1.8, 8.7 Hz, 1H), 7.45 (m, 2H), 2.69 (s, 2H), 2.3 (m, 2H), 2.25 (m, 3H), 1.8-1.3 (m, 8H). 13C NMR (CDCl3, δ, mult): 142.7(0), 133.4(0), 131.7(0), 128.0(1), 127.9(1), 127.2(1), 126.1(1), 125.7(1), 125.4(1), 125.0(1), 64.4(2), 42.4(0), 37.3(3), 34.7(2), 26.7(2), 22.3(2).

reactant | 1-(naphthalen-2-yl)cyclohexane-carboxylic acid | C1=C(C=CC2=CC=CC=C12)C1(CCCCC1)C(=O)O | C17H18O2
reactant | methyl amine | CN | CH5N
product | N-methyl(1-(naphthalen-2-yl)cyclohexyl)-methanamine | 74% yield | CNCC1(CCCCC1)C1=CC2=CC=CC=C2C=C1 | C18H23N
